US09278102B2
3-(3-((4-(Piperidin-1-yl)-2-(6-(trifluoromethyl)-1H-indole-2-carbonyl)-phenyl)-carbamoyl)benzylthio)propanoic acid
Into a 50 mL round bottom flask, was placed a solution of methyl 3-(3-((4-(piperidin-1-yl)-2-(6-(trifluoromethyl)-1H-indole-2-carbonyl)phenyl)carbamoyl)benzylthio)-propanoate (60 mg, 0.10 mmol, 1.00 equiv) in tetrahydrofuran (5 mL), and a solution of lithium hydroxide hydrate (100 mg, 2.50 mmol, 26.00 equiv) in water (2 mL). The solution was stirred overnight at 15° C. The solution was then diluted with 30 mL of water. The mixture was washed with 1×20 mL of ethyl acetate. The pH value of the solution was adjusted to 5 with 1N hydrochloric acid. The resulting solution was extracted with 2×30 mL of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was dissolved in 2 mL of ether. The product was precipitated by the addition of hexane. The solids were collected by filtration. This resulted in 20 mg (34%) of 3-(3-((4-(piperidin-1-yl)-2-(6-(trifluoromethyl)-1H-indole-2-carbonyl)phenyl)-carbamoyl)-benzylthio)-propanoic acid as a orange solid. 1H-NMR (300 MHz, DMSO, ppm): δ 12.30 (1H, s), 10.36 (s, 1H), 7.94-7.91 (d, 1H), 7.76 (s, 1H), 7.68-7.58 (m, 2H), 7.65 (s, 1H), 7.47-7.44 (d, 1H), 7.40-7.32 (m, 2H), 7.25-7.24 (d, 2H), 7.12 (s, 1H), 3.74 (s, 2H), 3.19 (s, 4H), 2.5 (m, 4H), 1.56-1.64 (m, 6H), MS (ES, m/z): 610 [M+H]+.

reactant | methyl 3-(3-((4-(piperidin-1-yl)-2-(6-(trifluoromethyl)-1H-indole-2-carbonyl)phenyl)carbamoyl)benzylthio)-propanoate | 0.10 mmol, 60 mg, 1.00 equiv | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC)C=CC1)C(=O)C=1NC2=CC(=CC=C2C1)C(F)(F)F | C33H32F3N3O4S
reactant | lithium hydroxide hydrate | 2.50 mmol, 100 mg, 26.00 equiv | O.[OH-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | 3-(3-((4-(Piperidin-1-yl)-2-(6-(trifluoromethyl)-1H-indole-2-carbonyl)-phenyl)-carbamoyl)benzylthio)propanoic acid | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1)C(=O)C=1NC2=CC(=CC=C2C1)C(F)(F)F | C32H30F3N3O4S
